US07307094B2
A mixture of 6-bromo-2-(4-methoxyphenyl)benzoxazole carboxylic acid (86 mg, 0.25 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (94 mg, 0.49 mmol), 1-hydroxybenzotriazole (67 mg, 0.49 mmol) and 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride (67 mg, 0.30 mmol) in DMF (5 mL) was stirred for 10 min at room temperature, then triethylamine (0.100 mL, 0.99 mmol) was added. The resulting reaction mixture was stirred at room temperature for 18 h. The mixture was diluted with ethyl acetate and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine (2×100 mL), dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:9:1 ethyl acetate/methanol/concentrated ammonium hydroxide) to afford N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-6-bromo-2-(4-methoxyphenyl)benzoxazole-4-carboxamide (32 mg, 27%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 8.99 (br s, 1H), 8.30 (d, J=1.8 Hz, 1H), 8.17 (d, J=8.8 Hz, 2H), 7.81 (d, J=1.8 Hz, 1H), 7.10-7.05 (m, 2H), 4.60-4.55 (m, 1H), 3.93 (s, 3H), 3.25-3.15 (m, 2H), 2.70-2.55 (m, 5H), 2.40-2.00 (m, 3H), 1.70-1.20 (m, 5H); MS (ESI+) m/z 484 (M+H); HPLC>99% (AUC), tR=15.30 min.

reactant | 6-bromo-2-(4-methoxyphenyl)benzoxazole carboxylic acid | 0.25 mmol, 86 mg | BrC1=CC2=C(NC(O2)(C(=O)O)C2=CC=C(C=C2)OC)C=C1 | C15H12BrNO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.49 mmol, 94 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.49 mmol, 67 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride | 0.30 mmol, 67 mg | Cl.Cl.NC1CC2CCCC(C1)N2C
reactant | triethylamine | 0.99 mmol, 0.100 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-6-bromo-2-(4-methoxyphenyl)benzoxazole-4-carboxamide | 32 mg, 27% | CN1C2CC(CC1CCC2)NC(=O)C=2C=C(C=C1C2N=C(O1)C1=CC=C(C=C1)OC)Br | C24H26BrN3O3
